US06150373
A solution of 320 mg (0.47 mmol) of 1-[3-(2-tert-butyldiphenylsilyloxyethyl)-phenyl]-3-(furan-2-yl-methyl)-7-phenylamino-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one in dry tetrahydrofuran (5 ml) was treated with 0.6 ml (0.6 mmol) of tetrabutylammonium fluoride (1M solution in tetrahydrofuran) then stirred at room temperature for 2 hours. The solvent was evaporated and the crude material purified by flash chromatography on silica gel, eluting with 4:1 ethyl acetate/hexane. Product containing fractions were combined and evaporated to give 170 mg (82%) of 3-(furan-2-yl-methyl)-1-[3-(2-hydroxyethyl)-phenyl]-7-phenylamino-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one as a pale pink solid of melting point 195° C. [Mass spectrum (ESI) MH+ =442].

reactant | 1-[3-(2-tert-butyldiphenylsilyloxyethyl)-phenyl]-3-(furan-2-yl-methyl)-7-phenylamino-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.47 mmol, 320 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC=1C=C(C=CC1)N1C(N(CC=2C1=NC(=NC2)NC2=CC=CC=C2)CC=2OC=CC2)=O | C41H41N5O3Si
reactant | tetrabutylammonium fluoride | 0.6 mmol, 1M, 0.6 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-(furan-2-yl-methyl)-1-[3-(2-hydroxyethyl)-phenyl]-7-phenylamino-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 170 mg, 82% | O1C(=CC=C1)CN1C(N(C2=NC(=NC=C2C1)NC1=CC=CC=C1)C1=CC(=CC=C1)CCO)=O | C25H23N5O3
